US06130229
The 2-cyano-3-chloromethylpyridine was prepared by chlorination of 2-cyano-3-methylpyridine in chlorobenzene with benzoylperoxide by gradual addition of SO2Cl2 at 80° C. 2-Cyano-3-chloromethylpyridine was obtained in 60-65% conversion. The main impurities are 2-cyano-3-dichloromethylpyridine and unreacted 2-cyano-3-methylpyridine, which do not cause problems in the process of this Preparation.

reactant | 2-cyano-3-methylpyridine | C(#N)C1=NC=CC=C1C | C7H6N2
reactant | benzoylperoxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 2-Cyano-3-chloromethylpyridine | C(#N)C1=NC=CC=C1CCl | C7H5ClN2
